US06696473B2
B. Preparation of 3-[3-Benzyl-5-(1-methyl-1H-quinolin-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-4-ethylaminobenzonitrile
In a manner similar to Example 45, intermediate 1-methyl-2-methylthioquinolinium p-toluenesulfonate was condensed with 3-(3-benzyl-4-oxothiazolidin-2-ylideneamino)-4-ethylaminobenzonitrile to afford the title compound. 1H-NMR (CDCl3): δ 7.41-7.58 (4H, m), 7.20-7.38 (9H, m), 6.49 (1H, d), 5.16 (2H, s), 3.79 (3, br s), 3.01 (2H, q), 1.02 (3H, t); MS(ESI): 492 (MH+).

reactant | 1-methyl-2-methylthioquinolinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C[N+]1=C(C=CC2=CC=CC=C12)SC
reactant | 3-(3-benzyl-4-oxothiazolidin-2-ylideneamino)-4-ethylaminobenzonitrile | C(C1=CC=CC=C1)N1C(SCC1=O)=NC=1C=C(C#N)C=CC1NCC | C19H18N4OS
product | 3-[3-Benzyl-5-(1-methyl-1H-quinolin-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-4-ethylaminobenzonitrile | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1N(C2=CC=CC=C2C=C1)C)=NC=1C=C(C#N)C=CC1NCC | C29H25N5OS
